US09079878B2
2-Oxo-2-[4-(pentafluoro-λ6-sulfanyl)phenyl]ethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate
Prepared by Method E using (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid (Preparation 25, 0.647 g, 2.44 mmol) and 2-bromo-1-[4-(pentafluoro-λ6-sulfanyl)phenyl]-ethanone (Preparation 40, 0.793 g, 2.44 mmol) to afford the title compound.

reactant | (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid | 2.44 mmol, 0.647 g | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)O | C13H15NO5
reactant | 2-bromo-1-[4-(pentafluoro-λ6-sulfanyl)phenyl]-ethanone | 2.44 mmol, 0.793 g | BrCC(=O)C1=CC=C(C=C1)S(F)(F)(F)(F)F | C8H6BrF5OS
product | 2-Oxo-2-[4-(pentafluoro-λ6-sulfanyl)phenyl]ethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)OCC(C1=CC=C(C=C1)S(F)(F)(F)(F)F)=O | C21H20F5NO6S
